US07906669B2
(Z)-2-Ethoxy-3-(thiophen-3-yl)acrylic Acid
Following the procedure of (Vol. 8, No. 6, 2004, Organic Research & Development) with modification, this compound was synthesised as follows: Ethyl chloroacetate (44.8 ml, 421 mmol) and anhydrous ethanol (30 ml) were cooled to 10-12° C. A solution of sodium ethoxide in ethanol (21% w/w, 165 ml) was added over 25 min at 12-16° C. under N2. After addition was complete the reaction mixture was warmed to 25° C. and stirred for 1 h. The mixture was then cooled to 10° C. and solid NaOEt (33.3 g, 488 mmol) was then added portion-wise over 0.5 h at 10-14° C. Ethanol (20 ml) was then added followed by the addition of diethyl carbonate (31 ml, 256 mmol). The slurry was then cooled to 0-5° C. and then 3-thiophene carboxaldehyde (20.2 g, 179.5 mmol) was added over a period of 1 h. After addition was complete the mixture was stirred at 40° C. in an oil bath for 15 h. The slurry was then cooled to 10-15° C. and then water (40 ml) was added followed by the addition of aqueous NaOH (55 ml of a 10 M solution). The resulting slurry was then stirred at pH 14 for 3 h at 20° C. The mixture was then diluted with water (60 ml) and then placed under reduced pressure at 45° C. to remove most of the ethanol and some water. The resulting thick slurry was then cooled to 4° C. in an ice-bath and then treated with conc. HCl (115 ml) drop-wise. The resulting slurry was then stirred at room temperature for 1.5 h and then extracted with EtOAc (2×200 ml) and the organic layer washed with water, brine and then dried (sodium sulphate). Evaporation of the solvent under reduced pressure afforded a deep-brown residue. This was dissolved in 5 M NaOH (250 ml) and this solution was washed with EtOAc (100 ml). The basic aqueous was then cooled to 4° C. and acidified with conc. HCl (11 M) to pH 4-6. The product was extracted with diethyl ether (3×200 ml), washed with brine, dried (sodium sulphate) and the solvent removed under reduced pressure. The residue was then filtered through a pad of silica (eluent hexane:EtOAc 90:10). The solvent was removed under reduced pressure and then the residue recrystallised from Et2O/hexane to afford the title compound as yellow crystals (79%). M.p. 88-89° C. 1H NMR (CDCl3, 250 MHz) δ 11.16 (1H, br s, COOH), 7.73-7.75 (1H, dd, j=0.5 Hz, Ar), 7.44-7.47 (1H, dd, J=1 Hz, Ar), 7.25-7.28 (1H, m, Ar), 7.18 (1H, s, CH═C), 3.96-4.05 (2H, q, J=7 Hz, CH2CH3), 1.35 (3H, t, J=7 Hz, CH2CH3),). Found: C, 54.64; H, 5.08; Calculated for C9H10SO3 C, 54.54; H, 5.08. M/z [(Cl) 222 (M)+ 30%, 223 (M+H)+ 50%, 240 (M+NH4)+ 100%; Found: 223.09705; required for C12H15O4 223.09155]. M/z [(Cl) 198 (M)+ 22%, 199 (M+H)+ 50%, 216 (M+NH4)+ 100%].

reactant | Ethyl chloroacetate | 421 mmol, 44.8 ml | ClCC(=O)OCC | C4H7ClO2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | NaOEt | 488 mmol, 33.3 g | CC[O-].[Na+]
reactant | diethyl carbonate | 256 mmol, 31 ml | C(OCC)(OCC)=O | C5H10O3
reactant | 3-thiophene carboxaldehyde | 179.5 mmol, 20.2 g | S1C=C(C=C1)C=O | C5H4OS
solvent | ethanol | 165 ml | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
solvent | NaOH | 5 M, 250 ml | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
solvent | Ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (Z)-2-Ethoxy-3-(thiophen-3-yl)acrylic Acid | 79% | C(C)O\C(\C(=O)O)=C/C1=CSC=C1 | C9H10O3S
